* C:\Users\shaun\Desktop\DRC-Project\LTspice\Envelope Detector with Attack and Release Control\Draft1.asc
XU1 0 N001 V+ V- N002 AD549
V1 V+ 0 +15
V2 V- 0 -15
R1 N001 N003 2k
R2 N002 N001 2k
V3 N003 0 SINE(0 1 1k)
R3 N001 V- 10k
R4 V+ N001 40k
R5 N002 0 10k
XU2 0 N004 V+ V- N005 AD549
Q1 N004 0 N005 0 2N2222
R6 N004 N009 10k
Q2 N006 0 N005 0 2N2222
XU3 0 N006 V+ V- N007 AD549
R7 N007 N006 10k
V4 N009 0 SINE(1 1 1k)
XU5 N010 N008 V+ V- N008 AD549
R8 N010 N007 10k
C1 N010 0 520p
.model NPN NPN
.model PNP PNP
.lib C:\Users\shaun\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 5m
.lib ADI1.lib
.backanno
.end
