* C:\Users\shaun\Desktop\DRC-Project\LTspice\Peak Detector\Peak Detector.asc
D1 N021 N019 1N4148
D2 N017 N021 1N4148
D3 N019 N022 1N4148
R1 N018 N019 47k
R2 N018 N017 47k
C1 N022 N024 22n
R3 N024 0 100k
R4 ABS 0 10k
D4 N011 N013 CMDSH2-3
R5 N014 N013 33
C2 N014 0 4.7n
R6 N014 0 10Meg
R7 PEAK N012 10k
R8 N012 0 10k
D5 N011 N010 CMDSH2-3
R9 N010 Vss 10k
R10 N016 N015 1k
R11 N015 0 10k
D6 0 N015 BAT54
R12 N015 ABS 10k
C5 N027 0 100n
D7 N026 N025 1N4148
R16 PEAK3 N025 100k
D8 N025 N027 1N4148
V1 N023 0 PULSE(0 1 0 1p 1p 100u 200u 5)
V2 V- 0 -15
V3 V+ 0 15
V4 N020 N023 SINE(0 1 10000 2.5m 0 0 5)
V5 ABS N020 SINE(0 3 10000 5m)
R13 N009 N008 33
C4 N009 0 4.7n
R15 PEAK0 N004 10k
R17 N004 0 10k
R18 N003 Vss 10k
R19 N007 N006 1k
R21 N006 ABS 10k
Q1 N001 N002 N003 0 NPN
Q2 N005 N002 N008 0 NPN
R22 Vdd N001 200
R23 Vdd N005 200
XU1 N007 N003 V+ V- N002 AD549
XU2 N009 N004 V+ V- PEAK0 AD549
XU3 N016 N010 V+ V- N011 AD549
XU4 N014 N012 V+ V- PEAK AD549
XU5 ABS N017 V+ V- N021 AD549
XU7 N022 N018 V+ V- N018 AD549
XU8 N027 PEAK3 V+ V- PEAK3 AD549
XU6 ABS N027 V+ V- N026 AD549
R14 N009 0 10Meg
R20 N006 0 10k
D9 0 N006 BAT54
R24 PEAK2 N018 500k
C3 PEAK2 0 10n
.model D D
.lib C:\Users\shaun\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\shaun\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 5m
.lib ADI1.lib
.backanno
.end
