.SUBCKT pot 1 2 3 T=0.5 R=10k
.param tap={limit(T,1m,.999)}
R0 1 3 {R*(1-tap)}
R1 3 2 {R*tap}
.ENDS


.SUBCKT exppot 1 2 3 T=0.5
.param tap={limit(T,1m,.999)}
.param stiff={limit(stiff,1,10000)}

R0 1 3 {R*exp(-tap*ln(R*stiff))}
R1 3 2 {R*(1-exp(-tap*ln(R*stiff)))}
.ENDS